### PR TITLE
feat: add `Fin.find?`, `Fin.findSome?` and lemmas

### PR DESCRIPTION
**Pull request by fgdorais**

### CODE REVIEW

File: Batteries/Data/Fin/Lemmas.lean [hunk 1]
```diff
@@ -13,3 +13,83 @@ attribute [norm_cast] val_last
...
+  · intro hf
+    match h : find? f with
+    | none => rfl
+    | some x =>
+      match exists_eq_some_of_find?_eq_some h with
+      | ⟨i, h⟩ => rw [hf] at h; contradiction
+
+theorem find?_isNone {f : Fin n → Option α} : (find? f).isNone ↔ ∀ i, (f i).isNone := by simp
+
+theorem find?_eq_list_join_find?_ofFn_isSome {f : Fin n → Option α} :
```
Comment (kim-em) [inline Batteries/Data/Fin/Lemmas.lean:87]:
```suggestion
theorem find?_eq_join_find?_ofFn_isSome {f : Fin n → Option α} :
```
?

Comment (kim-em) [inline Batteries/Data/Fin/Lemmas.lean:87]: What about the other lemma, saying `l.find? f = Fin.find? (fun (i : Fin l.length) => f l[i])`?

Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean]: On it...

Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean]: Actually, I'm going to harmonize things differently. I'll rename to `Fin.findMap?`, add `Fin.find?` compatible with `List.find?` and also add `List.findMap?` in a separate PR. Moving to WIP until I have time to get that done.

Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean]: Completed.

File: Batteries/Data/Fin/Lemmas.lean [hunk 2]
```diff
@@ -13,3 +13,143 @@ attribute [norm_cast] val_last
...
+    findSome? f = some x := by simp [findSome?_succ, h]
+
+@[simp] theorem findSome?_succ_of_isSome {f : Fin (n+1) → Option α} (h : (f 0).isSome) :
+    findSome? f = f 0 := by cases _h : f 0 <;> simp_all
+
+@[simp] theorem findSome?_succ_of_none {f : Fin (n+1) → Option α} (h : f 0 = none) :
+    findSome? f = findSome? fun i => f i.succ := by simp [findSome?_succ, h]
+
+@[simp] theorem findSome?_succ_of_isNone {f : Fin (n+1) → Option α} (h : (f 0).isNone) :
+    findSome? f = findSome? fun i => f i.succ := by simp_all
```
Comment (kim-em) [inline Batteries/Data/Fin/Lemmas.lean:43]: Do you need these as simp lemma? They will fire a lot. Life will be better with grind.

File: Batteries/Data/Fin/Lemmas.lean [hunk 3]
```diff
@@ -13,3 +13,143 @@ attribute [norm_cast] val_last
...
+  constructor
+  · intro ⟨x, hx⟩
+    match exists_of_findSome?_eq_some hx with
+    | ⟨i, hi⟩ => exists i, x
+  · intro ⟨i, x, hix⟩
+    match h : findSome? f with
+    | some x => exists x
+    | none => rw [eq_none_of_findSome?_eq_none h i] at hix; contradiction
+
+@[simp] theorem findSome?_eq_none_iff {f : Fin n → Option α} :
```
Comment (kim-em) [inline Batteries/Data/Fin/Lemmas.lean:88]: What about the missing `findSome?_eq_some_iff`, which also says that `f` is none for earlier values?

File: Batteries/Data/Fin/Lemmas.lean [hunk 4]
```diff
@@ -13,3 +13,143 @@ attribute [norm_cast] val_last
...
+    · contradiction
+
+theorem eq_false_of_find?_eq_none {p : Fin n → Bool} (h : find? p = none) (i) : p i = false := by
+  have hi := eq_none_of_findSome?_eq_none h i
+  simp only [Option.guard] at hi
+  split at hi
+  · contradiction
+  · simp [*]
+
+theorem find?_isSome {p : Fin n → Bool} : (find? p).isSome ↔ ∃ i, p i := by
```
Comment (kim-em) [inline Batteries/Data/Fin/Lemmas.lean:144]:
```suggestion
theorem find?_isSome_iff {p : Fin n → Bool} : (find? p).isSome ↔ ∃ i, p i := by
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 5]
```diff
@@ -13,3 +13,143 @@ attribute [norm_cast] val_last
...
+  simp [find?, findSome?_isSome_iff]
+
+theorem find?_isNone {p : Fin n → Bool} : (find? p).isNone ↔ ∀ i, ¬ p i := by
```
Comment (kim-em) [inline Batteries/Data/Fin/Lemmas.lean:147]:
```suggestion
theorem find?_isNone_iff {p : Fin n → Bool} : (find? p).isNone ↔ ∀ i, ¬ p i := by
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 6]
```diff
@@ -13,3 +13,143 @@ attribute [norm_cast] val_last
...
+  simp [find?, findSome?_isSome_iff]
+
```
Comment (kim-em) [inline Batteries/Data/Fin/Lemmas.lean:149]: `find?_eq_none_iff` and `find?_eq_some_iff`?

File: Batteries/Data/Fin/Lemmas.lean (hunk 3 above)
Comment (kim-em) [reply Batteries/Data/Fin/Lemmas.lean:88]: You could hopefully prove this via `findSome?_eq_findSome?_finRange` and `List.findSome?_eq_some_iff`.

Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean:89]: Just checking: this is about `findSome?_isSome_iff` and not about `findSome?_eq_none_iff`. The code selection is a bit off.

Anyway, my current proof of this sucks. I'm busy this week so I'm adding a `proof_wanted` to temporarily deal with this. I'll come back to it if nobody fixes this before I do.
